US09303033B2
Synthesis of 7-(benzylthio)-5-(3-chlorophenylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde
To 7-(benzylthio)-N-(3-chlorophenyl)pyrazolo[1,5-a]pyrimidin-5-amine (4.1 g, 11.3 mmol) in DMF (42 mL), POCl3 (6.3 mL, 67.6 mmol) was added dropwise at room temperature. After the addition was complete, the reaction was stirred for 3 hours at room temperature. Then, the reaction was quenched by slow addition to ice cold 6N NaOH. The mixture was diluted with water and the solid was collected by filtration. The solid was washed several more times with water then dried under vacuum overnight. The product, 7-(benzylthio)-5-(3-chlorophenylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde, was collected as a solid in 83% yield. LCMS (M+1=395)

reactant | 7-(benzylthio)-N-(3-chlorophenyl)pyrazolo[1,5-a]pyrimidin-5-amine | 11.3 mmol, 4.1 g | C(C1=CC=CC=C1)SC1=CC(=NC=2N1N=CC2)NC2=CC(=CC=C2)Cl | C19H15ClN4S
reactant | POCl3 | 67.6 mmol, 6.3 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 42 mL | CN(C)C=O | C3H7NO
product | 7-(benzylthio)-5-(3-chlorophenylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 83% yield | C(C1=CC=CC=C1)SC1=CC(=NC=2N1N=CC2C=O)NC2=CC(=CC=C2)Cl | C20H15ClN4OS
